US07645784B2
2-(1H-Benzimidazol-1-yl)-N-(3-chloro-4-fluorophenyl)acetamide
3-Carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate (128 mg, 0.44 mmol) was dissolved in a mixture of oxalyl chloride (0.6 mL) and dichloromethane (3.4 mL). The reaction mixture was stirred for 30 min at ambient temperature and the solvent was evaporated. The residue was dissolved in a mixture of dichloromethane (2.5 mL) and anhydrous TBF (2.5 mL) and added to a mixture of 3-chloro4-fluoro-aniline (17 mg, 0.12 mmol) and N,N-(diisopropyl)aminomethylpolystyrene resin (140 mg, Argonaut Technologies, Inc) in anhydrous THF (3 mL). The mixture was shaken overnight. The resin was filtered off, the solvents were evaporated and the crude product was purified on a preparative LC/MS (XTerra Cs column 19×100mm, 0.1 M aqueous NH4Ac/CH3CN). The pooled fractions were lyophilized to afford 7.2 mg (20%) of the title compound. Calculated for C15H11ClFN3O m/z: 303.7, found 304.7 [M+H]+. 1H NMR (400 M, MeOD) δ ppm 5.2 (s, 2H), 7.2 (t, J=9.1 Hz, 1H), 7.3 (m, 2H), 7.5 (m, 1H), 7.5 (d, J=7.1 Hz, 1H), 7.7 (d, J=7.1 Hz, 1H), 7.8 (dd, J=6.6, 2.5 Hz, 1H), 8.2 (s, 1H).

reactant | 3-Carboxymethyl-3H-benzoimidazol-1-ium trifluoro-acetate | 0.44 mmol, 128 mg | FC(C(=O)[O-])(F)F.C(=O)(O)CN1C=[NH+]C2=C1C=CC=C2
reactant | 3-chloro4-fluoro-aniline | 0.12 mmol, 17 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | oxalyl chloride | 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 3.4 mL | ClCCl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(1H-Benzimidazol-1-yl)-N-(3-chloro-4-fluorophenyl)acetamide | 7.2 mg, 20% | N1(C=NC2=C1C=CC=C2)CC(=O)NC2=CC(=C(C=C2)F)Cl | C15H11ClFN3O
